### PR TITLE
feat: shiftRight bitblasting theorems

### PR DESCRIPTION
**Pull request by bollu**
These theorems allow us to bitblast arithmetic and logical shift rights. The TODOS are yet to be addressed.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -430,4 +430,172 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    ushiftRight_rec x y (n + 1) =
+      (ushiftRight_rec x y n) >>> (y &&& twoPow w₂ (n + 1)) := by
+  simp [ushiftRight_rec]
+
+-- | TODO: should this be a simp-lemma? Probably not.
+theorem ushiftRight_eq' (x : BitVec w) (y : BitVec w₂) :
+  x >>> y = x >>> y.toNat := by rfl
+
+
+@[simp]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:457]:
```suggestion
  x >>> y = x >>> y.toNat := by rfl

@[simp]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -430,4 +430,172 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+      simp [h]
+
+theorem shiftRight_eq_shiftRight_rec (x : BitVec ℘) (y : BitVec w₂) :
+    x >>> y = ushiftRight_rec x y (w₂ - 1) := by
+  rcases w₂ with rfl | w₂
+  · simp [of_length_zero]
+  · simp [ushiftRight_rec_eq]
+
+
+/- ### Arithmetic (sshiftRight) recurrence -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:507]:
```suggestion
  · simp [ushiftRight_rec_eq]

/- ### Arithmetic (sshiftRight) recurrence -/
```

File: src/Init/Data/BitVec/Basic.lean [hunk 3]
```diff
@@ -534,6 +534,9 @@ def sshiftRight (a : BitVec n) (s : Nat) : BitVec n := .ofInt n (a.toInt >>> s)
 instance {n} : HShiftLeft  (BitVec m) (BitVec n) (BitVec m) := ⟨fun x y => x <<< y.toNat⟩
 instance {n} : HShiftRight (BitVec m) (BitVec n) (BitVec m) := ⟨fun x y => x >>> y.toNat⟩
 
+def sshiftRight' (a : BitVec n) (s : BitVec m) : BitVec n := a.sshiftRight s.toNat
+
+
 /-- Auxiliary function for `rotateLeft`, which does not take into account the case where
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean:540]:
```suggestion

/-- Auxiliary function for `rotateLeft`, which does not take into account the case where
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -430,4 +430,172 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    ext i
+    simp only [ushiftRight_rec_zero, twoPow_zero, Nat.reduceAdd, truncate_one_eq_ofBool_getLsb]
+    rw [and_one]
+  case succ n ih =>
+    simp
+    rw [ih]
+    by_cases h : y.getLsb (n + 1) <;> simp [h]
+    · rw [zeroExtend_truncate_succ_eq_zeroExtend_truncate_or_twoPow_of_getLsb_true h]
+      rw [ushiftRight_or_eq_ushiftRight_ushiftRight_of_and_eq_zero]
+      · simp
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:496]: Why is there a single \cdot?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -430,4 +430,172 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  simp [sshiftRightRec]
+
+/-- The msb after arithmetic shifting right equals the original msb. -/
+theorem sshiftRight_msb_eq_msb {n : Nat} {x : BitVec w} :
+    (x.sshiftRight n).msb = x.msb := by
+  rw [msb_eq_getLsb_last, getLsb_sshiftRight]
+  rcases w with rfl | w
+  · simp
+  · simp only [Nat.add_sub_cancel]
+    simp [show ¬ (w + 1 ≤ w) by omega]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:539]: Non-terminal simp.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -430,4 +430,172 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  by_cases h₁ : w ≤ (i : Nat)
+  · simp [h₁]
+  · simp only [h₁, decide_False, Bool.not_false, Bool.true_and]
+    by_cases h₂ : n + ↑i < w
+    · simp [h₂]
+    · simp only [h₂, ↓reduceIte]
+      by_cases h₃ : m + (n + ↑i) < w
+      · simp [h₃]
+        omega
+      · simp [h₃]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:559]: Non terminal simp?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -430,4 +430,172 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  rw [sshiftRight'_add]
+  rfl
+
+theorem sshiftRightRec_eq (x : BitVec w₁) (y : BitVec w₂) (n : Nat) :
+  sshiftRightRec x y n = x.sshiftRight' ((y.truncate (n + 1)).zeroExtend w₂) := by
+  induction n generalizing x y
+  case zero =>
+    ext i
+    simp  [ushiftRight_rec_zero, twoPow_zero, Nat.reduceAdd, truncate_one_eq_ofBool_getLsb]
+    rw [and_one]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:583]: Non-terminal simp, and double-whitespace after simp.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -430,4 +430,172 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  case succ n ih =>
+    simp
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:585]: Non-terminal simp.

**Comment by tobiasgrosser** [comment]
This did not lead to a clean PR? Maybe update origin/master and merge origin/master?

**Comment by bollu** [comment]
@tobiasgrosser clean now.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  simp [ushiftRight_rec]
+
+@[simp]
+theorem ushiftRight_rec_succ (x : BitVec w₁) (y : BitVec w₂) :
+    ushiftRight_rec x y (n + 1) =
+      (ushiftRight_rec x y n) >>> (y &&& twoPow w₂ (n + 1)) := by
+  simp [ushiftRight_rec]
+
+theorem ushiftRight_eq' (x : BitVec w) (y : BitVec w₂) :
+  x >>> y = x >>> y.toNat := by rfl
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:450]:
```suggestion
theorem ushiftRight_eq' (x : BitVec w₁) (y : BitVec w₂) :
  x >>> y = x >>> y.toNat := by rfl
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  simp [ushiftRight_eq', shiftRight_add]
+
+theorem ushiftRight_or_eq_ushiftRight_ushiftRight_of_and_eq_zero {x : BitVec w} {y z : BitVec w₂}
+    (h : y &&& z = 0#w₂) :
+    x >>> (y ||| z) = x >>> y >>> z := by
+  simp [← add_eq_or_of_and_eq_zero _ _ h,
+    ushiftRight_eq', toNat_add_of_and_eq_zero h, shiftRight_add]
+
+theorem getLsb_ushiftRight' (x : BitVec w) (y : BitVec w₂) (i : Nat) :
+    (x >>>  y).getLsb i = x.getLsb (y.toNat + i) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:472]:
```suggestion
theorem getLsb_ushiftRight' (x : BitVec w₁) (y : BitVec w₂) (i : Nat) :
    (x >>>  y).getLsb i = x.getLsb (y.toNat + i) := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  case succ n ih =>
+    simp only [ushiftRight_rec_succ, and_twoPow]
+    rw [ih]
+    by_cases h : y.getLsb (n + 1) <;> simp [h]
+    · simp [zeroExtend_truncate_succ_eq_zeroExtend_truncate_or_twoPow_of_getLsb_true h,
+        ushiftRight_or_eq_ushiftRight_ushiftRight_of_and_eq_zero]
+    · simp [zeroExtend_truncate_succ_eq_zeroExtend_truncate_of_getLsb_false (i := n + 1), h]
+
+theorem shiftRight_eq_shiftRight_rec (x : BitVec ℘) (y : BitVec w₂) :
+    x >>> y = ushiftRight_rec x y (w₂ - 1) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:491]:
```suggestion
theorem shiftRight_eq_shiftRight_rec (x : BitVec w₁) (y : BitVec w₂) :
    x >>> y = ushiftRight_rec x y (w₂ - 1) := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  rcases w₂ with rfl | w₂
+  · simp [of_length_zero]
+  · simp [ushiftRight_rec_eq]
+
+/- ### Arithmetic (sshiftRight) recurrence -/
+
+def sshiftRightRec (x : BitVec w) (y : BitVec w₂) (n : Nat) : BitVec w :=
+  let shiftAmt := (y &&& (twoPow w₂ n))
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:499]:
```suggestion
def sshiftRightRec (x : BitVec w₁) (y : BitVec w₂) (n : Nat) : BitVec w₁ :=
  let shiftAmt := (y &&& (twoPow w₂ n))
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 13]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  match n with
+  | 0 => x.sshiftRight' shiftAmt
+  | n + 1 => (sshiftRightRec x y n).sshiftRight' shiftAmt
+
+@[simp]
+theorem sshiftRightRec_zero_eq (x : BitVec w) (y : BitVec w₂) :
+    sshiftRightRec x y 0 = x.sshiftRight' (y &&& 1#w₂) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:506]:
```suggestion
theorem sshiftRightRec_zero_eq (x : BitVec w₁) (y : BitVec w₂) :
    sshiftRightRec x y 0 = x.sshiftRight' (y &&& 1#w₂) := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 14]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  simp only [sshiftRightRec, twoPow_zero]
+
+@[simp]
+theorem sshiftRightRec_succ_eq (x : BitVec w) (y : BitVec w₂) (n : Nat) :
+    sshiftRightRec x y (n + 1) = (sshiftRightRec x y n).sshiftRight' (y &&& twoPow w₂ (n + 1)) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:511]:
```suggestion
theorem sshiftRightRec_succ_eq (x : BitVec w₁) (y : BitVec w₂) (n : Nat) :
    sshiftRightRec x y (n + 1) = (sshiftRightRec x y n).sshiftRight' (y &&& twoPow w₂ (n + 1)) := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 15]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  simp [sshiftRightRec]
+
+theorem sshiftRight_or_eq_sshiftRight_sshiftRight_of_and_eq_zero {x : BitVec w} {y z : BitVec w₂}
+    (h : y &&& z = 0#w₂) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:515]:
```suggestion
theorem sshiftRight_or_eq_sshiftRight_sshiftRight_of_and_eq_zero {x : BitVec w₁} {y z : BitVec w₂}
    (h : y &&& z = 0#w₂) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 16]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    x.sshiftRight' (y ||| z) = (x.sshiftRight' y).sshiftRight' z := by
+  simp [sshiftRight', ← add_eq_or_of_and_eq_zero _ _ h,
+   toNat_add_of_and_eq_zero h, sshiftRight'_add]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:518]:
```suggestion
  simp [sshiftRight', ← add_eq_or_of_and_eq_zero _ _ h,
    toNat_add_of_and_eq_zero h, sshiftRight'_add]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -795,6 +795,44 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+  rw [msb_eq_getLsb_last, getLsb_sshiftRight, msb_eq_getLsb_last]
+  by_cases hw₀ : w = 0
+  · simp [hw₀]
+  · simp only [show ¬(w ≤ w - 1) by omega, decide_False, Bool.not_false, Bool.true_and,
+    ite_eq_right_iff]
+    intros h
+    simp [show n = 0 by omega]
+
+-- TODO: convert this into sshiftRight_add
+theorem sshiftRight_sshiftRight {x : BitVec w} {m n : Nat} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:810]: Is this todo still open?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 18]
```diff
@@ -929,6 +967,11 @@ theorem shiftRight_add {w : Nat} (x : BitVec w) (n m : Nat) :
   ext i
   simp [Nat.add_assoc n m i]
 
+theorem sshiftRight'_add {x : BitVec w₁} {y : BitVec w₂} {z : BitVec w₃} :
+    x.sshiftRight (y.toNat + z.toNat) = (x.sshiftRight' y).sshiftRight' z := by
+  simp [sshiftRight', shiftRight_add, sshiftRight_sshiftRight]
+
+
 @[deprecated shiftRight_add (since := "2024-06-02")]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:975]:
```suggestion

@[deprecated shiftRight_add (since := "2024-06-02")]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -431,4 +427,115 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    ushiftRight_rec x y 0 = x >>> (y &&& twoPow w₂ 0)  := by
+  simp [ushiftRight_rec]
+
+@[simp]
+theorem ushiftRight_rec_succ (x : BitVec w₁) (y : BitVec w₂) :
+    ushiftRight_rec x y (n + 1) =
+      (ushiftRight_rec x y n) >>> (y &&& twoPow w₂ (n + 1)) := by
+  simp [ushiftRight_rec]
+
+theorem ushiftRight_eq' (x : BitVec w) (y : BitVec w₂) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:449]: I am not a fan, but in the previous PR we marked this as simp, no?

**Comment by tobiasgrosser** [comment]
The PR message states that there are still open TODOs. Is this up-to-date?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 17 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:823]: Just cleaned up.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 20]
```diff
@@ -431,4 +427,102 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    x >>> (y ||| z) = x >>> y >>> z := by
+  simp [← add_eq_or_of_and_eq_zero _ _ h, toNat_add_of_and_eq_zero h, shiftRight_add]
+
+theorem getLsb_ushiftRight' (x : BitVec w₁) (y : BitVec w₂) (i : Nat) :
+    (x >>> y).getLsb i = x.getLsb (y.toNat + i) := by
+  simp [getLsb_ushiftRight]
+
+theorem ushiftRight_rec_eq (x : BitVec w₁) (y : BitVec w₂) (n : Nat) :
+  ushiftRight_rec x y n = x >>> (y.truncate (n + 1)).zeroExtend w₂ := by
+  induction n generalizing x y
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:464]:
```suggestion
    ushiftRight_rec x y n = x >>> (y.truncate (n + 1)).zeroExtend w₂ := by
  induction n generalizing x y
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 21]
```diff
@@ -431,4 +427,102 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+theorem sshiftRight_or_eq_sshiftRight_sshiftRight_of_and_eq_zero {x : BitVec w} {y z : BitVec w₂}
+    (h : y &&& z = 0#w₂) :
+    x.sshiftRight' (y ||| z) = (x.sshiftRight' y).sshiftRight' z := by
+  simp [sshiftRight', ← add_eq_or_of_and_eq_zero _ _ h,
+   toNat_add_of_and_eq_zero h, sshiftRight'_add]
+
+theorem sshiftRightRec_eq (x : BitVec w₁) (y : BitVec w₂) (n : Nat) :
+  sshiftRightRec x y n = x.sshiftRight' ((y.truncate (n + 1)).zeroExtend w₂) := by
+  induction n generalizing x y
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:510]:
```suggestion
    sshiftRightRec x y n = x.sshiftRight' ((y.truncate (n + 1)).zeroExtend w₂) := by
  induction n generalizing x y
```

**Comment by tobiasgrosser** [comment]
These were merged in https://github.com/leanprover/lean4/pull/4872 and https://github.com/leanprover/lean4/pull/4889.
